US08124636B2
To a solution of bromo-(4-fluoro-phenyl)-acetic acid methyl ester (16.0 g) in chloroform (100 mL) was added potassium carbonate (17.9 g, finely ground) followed by 3-amino-1-propanol (4.87 g). The reaction was heated to 45° C. for 18 hours. The reaction was filtered and the filtrate was diluted with water and the phases were separated. The aqueous phase was further extracted with chloroform (3×25 mL) and the combined organics were washed with brine. The chloroform phase was dried over sodium sulfate, filtered and evaporated in vacuo to give the desired (4-fluoro-phenyl)-(3-hydroxy-propylamino)-acetic acid methyl ester (14.85 g, MS (ES+): 242.2 (MH+)) as a yellow oil which was used in the next step without further purification.

reactant | bromo-(4-fluoro-phenyl)-acetic acid methyl ester | 16.0 g | COC(C(C1=CC=C(C=C1)F)Br)=O | C9H8BrFO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-1-propanol | 4.87 g | NCCCO | C3H9NO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-fluoro-phenyl)-(3-hydroxy-propylamino)-acetic acid methyl ester | 14.85 g | COC(C(NCCCO)C1=CC=C(C=C1)F)=O | C12H16FNO3
